US09145415B2
To 2-chloro-3-nitropyridine (92 mg), tert-butyl(3-aminopropyl)carbamate (102 mg) and potassium carbonate (161 mg), acetonitrile (1.2 mL) was added at room temperature, and the mixture was stirred at the same temperature for 4 hours. To the reaction mixture, ethyl acetate and water were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl (3-((3-nitropyridin-2-yl)amino)propyl)carbamate (C42, 186 mg).

reactant | 2-chloro-3-nitropyridine | 92 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl(3-aminopropyl)carbamate | 102 mg | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | potassium carbonate | 161 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 1.2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3-((3-nitropyridin-2-yl)amino)propyl)carbamate | 186 mg | [N+](=O)([O-])C=1C(=NC=CC1)NCCCNC(OC(C)(C)C)=O | C13H20N4O4
